US08865712B2
b) 5-Cyano-3-nitro-pyridine-2-carboxylic acid tert-butyl ester
To a solution of 5-bromo-3-nitro-pyridine-2-carboxylic acid tert-butyl ester (888 mg, 2.93 mmol) in DMF (8.8 ml) was added zinc cyanide (206 mg, 1.76 mmol) and zinc dust (2 mg, 0.03 mmol). The mixture was purged with nitrogen (3 times)bis(tri-tert-butylphosphine)palladium(0) (150 mg, 0.293 mmol) was added and the mixture was heated to 80° C. for 4 h. After cooling to 0° C. water was added and the mixture extracted with EtOAc, the combined organic layers were washed with half saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:4) to provide the title compound as beige solid.

reactant | 5-bromo-3-nitro-pyridine-2-carboxylic acid tert-butyl ester | 2.93 mmol, 888 mg | C(C)(C)(C)OC(=O)C1=NC=C(C=C1[N+](=O)[O-])Br | C10H11BrN2O4
reactant | water | O | H2O
reactant | DMF | 8.8 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.76 mmol, 206 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.03 mmol, 2 mg | [Zn] | Zn
product | 5-Cyano-3-nitro-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=C(C=C1[N+](=O)[O-])C#N | C11H11N3O4
